US05792623
Cleavage of Immobilized Prothrombin in the Presence of Various Concentrations of Deoxycholate
A pellet containing recombinant prothrombin immobilized on Ca3 (PO4)2 was obtained from a prothrombin-containing cell culture, as described above. Five 0.6 gram samples of moist adsorbate were suspended in 3 ml of 20 mM Tris-HCl buffer (pH 8.3) containing 50 mM, 100 mM, 250 mM, 350 mM or 500 mM sodium deoxycholate. Sixty microliter aliquots of 0.76 mg/ml trypsin were added to each sample, and the mixtures were incubated for three hours at room temperature with shaking. After incubation, the buffers of the samples were changed against 0.9% NaCl.

reactant | sodium deoxycholate | 500 mM | C[C@H](CCC(=O)[O-])[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@]2(CC[C@H]4[C@@]3(CC[C@H](C4)O)C)C)O)C.[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | Tris-HCl | 20 mM, 3 ml, pH 8.3 | C(C(CO)(CO)N)O.Cl
product | Deoxycholate | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2CC[C@H]4[C@@]3(CC[C@H](C4)O)C)O)C | C24H40O4
